US08372823B2
1-Iodo-4-(phenoxymethyl)benzene (S25).
A solution of (4-iodophenyl)methanol (2.34 g, 10.0 mmol, 1 equiv) in anhydrous THF (30 mL) at 0° C. was treated with Ph3P (3.4 g, 13.0 mmol, 1.3 equiv) and phenol (1.0 g, 11.0 mmol, 1.1 equiv). After stirring for 5 min, diethyl azodicarboxylate (2.26 g, 13.0 mmol, 1.3 equiv) in 5 mL of anhydrous THF was added dropwise. The reaction mixture was allowed to warm at 25° C. and was stirred for 2 days. Concentration followed by column chromatography (SiO2, 4×10 cm, 5% EtOAc-hexanes) afforded S25 (1.45 g, 4.47 mmol, 45%) as a yellow oil: 1H NMR (CDCl3, 400 MHz) 7.74 (d, 2H, J=7.6 Hz), 7.32 (d, 2H, J=7.4 Hz), 7.21 (d, 2H, J=7.4 Hz), 7.01-6.95 (m, 3H), 5.04 (s, 2H); 13C NMR (CDCl3, 100 MHz) 158.4, 137.6, 136.7, 129.5, 129.2, 121.1, 114.7, 93.4, 69.1.

reactant | (4-iodophenyl)methanol | 10.0 mmol, 2.34 g, 1 equiv | IC1=CC=C(C=C1)CO | C7H7IO
reactant | Ph3P | 13.0 mmol, 3.4 g, 1.3 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | phenol | 11.0 mmol, 1.0 g, 1.1 equiv | C1(=CC=CC=C1)O | C6H6O
reactant | diethyl azodicarboxylate | 13.0 mmol, 2.26 g, 1.3 equiv | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-Iodo-4-(phenoxymethyl)benzene | IC1=CC=C(C=C1)COC1=CC=CC=C1 | C13H11IO
